US07932250B2
1-Methyl-4-[(3-nitrophenyl)sulfonyl]piperazine
To a solution of 500 mg (2.26 mmol) of 3-nitrobenzenesulfonyl chloride in 30 mL of dichloromethane were added 275 μL (2.48 mmol) of N-methylpiperazine and 786 μL (5.64 mmol) of triethylamine, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was extracted with dichloromethane and the organic layer was washed with water and saturated saline solution, and then, dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was treated with diethyl ether to give 510 mg (79%) of the title compound.

reactant | 3-nitrobenzenesulfonyl chloride | 2.26 mmol, 500 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-methylpiperazine | 2.48 mmol, 275 μL | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 5.64 mmol, 786 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-Methyl-4-[(3-nitrophenyl)sulfonyl]piperazine | 510 mg, 79% | CN1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O4S
